US08110568B2
To 5-amino-2-(methylsulfanyl)-4-phenylthiazole (305 mg, 1.37 mmol) in acetic acid (3.0 ml) was added aqueous hydrogen peroxide (660 μl, 30% wt, 6.9 mmol) dropwise at ambient temperature. After 4 hr the mixture was partitioned between dichloromethane (60 ml) and water (60 ml). The organic phase was separated, washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. Flash chromatography on silica gel (ethyl acetate/hexanes) yielded pure 5-amino-2-(methylsulfinyl)-4-phenylthiazole (285 mg, 87%).

reactant | 5-amino-2-(methylsulfanyl)-4-phenylthiazole | 1.37 mmol, 305 mg | NC1=C(N=C(S1)SC)C1=CC=CC=C1 | C10H10N2S2
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | 3.0 ml | C(C)(=O)O | C2H4O2
product | 5-amino-2-(methylsulfinyl)-4-phenylthiazole | 285 mg, 87% | NC1=C(N=C(S1)S(=O)C)C1=CC=CC=C1 | C10H10N2OS2
